US07091353B2
N-{[2-(2,6-Dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}-3,3-dimethylbutanamide I-10
1,8-Diazabicyclo[5,4,0]undec-7-ene (0.62 g, 4 mmol) was added to a stirred suspension of 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride (0.6 g, 1.9 mmol) in acetonitrile (50 ml). After stirring for 20 min, t-butylacetyl chloride (0.25 g, 1.9 mmol) was added. The mixture was stirred at room temperature for 17 hours. Solvent was removed in vacuo and the residue was dissolved in dichloromethane (90 ml) and washed with 0.1N HCl (30 ml), water (30 ml), brine (30 ml) and then dried. Solvent was removed in vacuo and the solid residue was slurried in ethanol (10 ml) to give after filtration 0.55 g (77%) of the product: mp 145–147° C.; 1H NMR (DMSO-d6) δ 11.14 (s, 1H), 8.39 (t, J=5.7 Hz, 1H), 7.87–7.69 (m, 3H), 5.19–5.12 (dd, J=5.3 and 12.4 Hz, 1H), 4.72 (d, J=5.8 Hz, 2H), 2.92–2.83 (m, 1H), 2.63–2.51 (m, 2H), 2.08 (s, 2H), 2.08–2.04 (m, 1H), 0.97 (s, 9H); 13C NMR (DMSO-d6) δ 172.69, 171.35, 169.74, 167.51, 166.96, 139.61, 134.69, 133.41, 131.52, 127.11, 121.87, 48.86, 48.62, 37.53, 30.93, 30.52, 29.71, 22.00; Anal. Calcd. For C20H23N3O5+0.28 water: C, 61.52; H, 6.08; N, 10.76. Found: C, 61.23; H, 6.18; N, 10.57.

reactant | 1,8-Diazabicyclo[5,4,0]undec-7-ene | 4 mmol, 0.62 g | N12CCCCCC2=NCCC1 | C9H16N2
reactant | 4-(aminomethyl)-2-(2,6-dioxo(3-piperidyl))isoindoline-1,3-dione hydrochloride | 1.9 mmol, 0.6 g | Cl.NCC1=C2C(N(C(C2=CC=C1)=O)C1C(NC(CC1)=O)=O)=O
reactant | t-butylacetyl chloride | 1.9 mmol, 0.25 g | C(C)(C)(C)CC(=O)Cl | C6H11ClO
solvent | acetonitrile | 50 ml | C(C)#N | C2H3N
product | N-{[2-(2,6-Dioxo(3-piperidyl))-1,3-dioxoisoindolin-4-yl]methyl}-3,3-dimethylbutanamide | O=C1NC(CCC1N1C(C2=CC=CC(=C2C1=O)CNC(CC(C)(C)C)=O)=O)=O | C20H23N3O5
